US07238716B2
A mixture of 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (2.42 g), ethyl 3-(3-hydroxyphenyl)propionate (1.35 g), anhydrous potassium carbonate (0.97 g) and N,N-dimethylformamide (30 mL) was stirred at 90° C. for 15 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (1.82 g, 55%) of ethyl 3-[3-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]propionate from a fraction eluted with ethyl acetate-hexane (1:6, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 90-91° C.

reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 2.42 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | ethyl 3-(3-hydroxyphenyl)propionate | 1.35 g | OC=1C=C(C=CC1)CCC(=O)OCC | C11H14O3
reactant | potassium carbonate | 0.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-[3-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]propionate | 1.82 g, 55% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC=2C=C(C=CC2)CCC(=O)OCC)C=C1 | C29H29NO5
